US07399778B2
To 1-benzyl-1H-pyrrole-2-carbaldehyde (0.50 g, 2.7 mmol) in THF (20 mL) at 0° C. was added a solution of i-PrMgBr (5.4 mL, 1N in THF, 5.4 mmol). The reaction mixture was warmed to room temperature and after 1.5 h it was quenched with saturated aqueous ammonium chloride, extracted with EtOAc, dried (Na2SO4) and concentrated. Column chromatography (EtOAc/hexanes, 1:4) provided 0.345 g (56%) of 1-(1-benzyl-1H-pyrrol-2-yl)-2-methylpropan-1-ol as an oil.

reactant | 1-benzyl-1H-pyrrole-2-carbaldehyde | 2.7 mmol, 0.50 g | C(C1=CC=CC=C1)N1C(=CC=C1)C=O | C12H11NO
reactant | i-PrMgBr | 5.4 mmol, 1N, 5.4 mL | C(C)(C)[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(1-benzyl-1H-pyrrol-2-yl)-2-methylpropan-1-ol | 0.345 g, 56% | C(C1=CC=CC=C1)N1C(=CC=C1)C(C(C)C)O | C15H19NO
